US07576215B2
(PHENYL[4-(3-{[4-(1H-TETRAZOL-5-YLMETHYL)BENZYL]OXY}PHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL]METHANONE)
A solution of ([4-({3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]phenoxy}methyl) phenyl]acetonitrile) (0.52 g, 1.0 mmol), sodium azide (0.33 g, 5.0 mmol) and NH4Cl (0.27 g, 5 mmol) in DMF (30 ml) was heated to 125° C. After 48 hr, the reaction was cooled and poured into water. The aqueous layer was extracted with EtOAc, dried and concentrated. The product was purified by column chromatography (eluent 50% EtOAc/Hexane) to give the title compound as a foam (0.12 g, 22%); MS (ESI) m/z [M+H]+(566); 1H NMR (DMSO) δ 16.2 (s, 1H), 9.13 (s, 1H), 8.32 (d, 1H, J=6.7 Hz), 7.92 (d, 1H, J=8.4 Hz), 7.75 (t, 1H, J=7.8 Hz), 7.63 (d, 2H, J=8.4 Hz), 7.57-7.53 (m, 1H), 7.39-7.25 (m, 7H), 6.98-6.93 (m, 2H), 6.84 (d, 1H, J=8.2 Hz), 5.02-4.43 (m, 2H), 4.32 (s, 2H).

reactant | [4-({3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]phenoxy}methyl) phenyl]acetonitrile | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(OCC2=CC=C(C=C2)CC#N)C=CC1)C(F)(F)F | C32H21F3N2O2
reactant | sodium azide | 5.0 mmol, 0.33 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 5 mmol, 0.27 g | [NH4+].[Cl-]
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | PHENYL[4-(3-{[4-(1H-TETRAZOL-5-YLMETHYL)BENZYL]OXY}PHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL]METHANONE | 0.12 g, 22% | C1(=CC=CC=C1)C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OCC1=CC=C(C=C1)CC1=NN=NN1)C(F)(F)F | C32H22F3N5O2
